US05591862
A mixture of 2-bromo-3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]propionitrile (2.0 g), palladium-carbon (5%, 0.2 g) and dioxane (30 ml) was subjected to catalytic reduction under 1 atmospheric pressure at room temperature. The catalyst was filtered off, then the filtrate was concentrated under reduced pressure. The concentrate was subjected to a silica gel column chromatography. From the fractions eluted with ethyl acetate--hexane (2:3, v/v), was obtained 3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]propionitrile (1.3 g, 78%), which was recrystallized from ethyl acetate--hexane to give colorless crystals, m.p.105°-106° C.

reactant | 2-bromo-3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]propionitrile | 2.0 g | BrC(C#N)CC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C20H18BrN3O2
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]propionitrile | 1.3 g, 78% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=NC=C(C=C1)CCC#N | C20H19N3O2
